US09376436B2
3 A Molecular sieves (25 g, 14.5 mmol) were weighed into a 250 mL RB flask with a stirrer bar. The flask was heated for 10 minutes under vacuum with a hot air gun to dry the sieves. When the flask was cool, a solution of 3-amino-1-(2-trimethylsilylethoxymethyl)pyrrolidin-2-one (which may be prepared as described in Description 41) (3.34 g, 14.5 mmol) in dry DCM (60 mL) was added under N2 and 4-bromo-6-methyl-pyridine-2-carbaldehyde [CAS: 448906-71-6](2.9 g, 14.5 mmol) was added to the flask. The mixture was gently stirred under N2 at ambient temperature for 16 hours. The reaction was filtered under suction to remove the sieves and they were washed with dry DCM (4×25 mL). The filtrate was evaporated to a brown oil which was dried at room temperature under vacuum for 1 hour. The residue was dissolved in dry THF (60 mL) and to this stirred solution, under N2, was added vinylsulfonylbenzene (2.44 g, 14.5 mmol) then silver acetate (2.42 g, 0.74 mL, 14.5 mmol). The mixture was wrapped in foil and stirred at ambient temperature for 3 minutes. After a further 3 minutes DBU (2.17 mL, 14.5 mmol) was added dropwise over 3 minutes and the mixture left to stir for 3 hours under N2 at ambient temperature. The reaction was filtered under suction through Celite and washed through with THF (100 mL). The filtrate was evaporated to a dark oil, dried at room temperature under vacuum for 2 hours then stored in fridge for 3 days. The material was dissolved in dry THF (60 mL) under N2 and the solution cooled in an ice bath. To this stirred solution was added, over 7 minutes, 1.7 M potassium tert-butoxide in THF (26 mL, 44.2 mmol) and the mixture was stirred in the ice bath for 1.5 hours. Acetic acid (2.49 mL, 44.2 mmol) was then added over 1 minute, the ice bath was removed and the stirred solution was warmed to ambient temperature over 20 minutes. The mixture was then filtered under suction through Celite, washed with THF (3×35 mL) until the washings were colourless. The filtrate and washings were evaporated to a dark oil which was dried at room temperature under vacuum for 2 hours. This material was purified by Silica column chromatography by dissolving the oil in DCM (25 mL) and diluting with iso-hexane (25 mL). The solution was divided into 2 equal volumes and each solution was applied to a 100 g cartridge which was then eluted on a Biotage SP4 system with a gradient of EtOAc/iso-hexane (30-80%). Relevant (early) fractions were pooled and evaporated to an orange solid which was dried at room temperature under vacuum overnight to give 2-(4-bromo-6-methyl-2-pyridyl)-7-(2-trimethylsilylethoxymethyl)-1,7-diazaspiro[4.4]non-1-en-6-one (D42) (3.15 g);

reactant | 3-amino-1-(2-trimethylsilylethoxymethyl)pyrrolidin-2-one | 14.5 mmol, 3.34 g | NC1C(N(CC1)COCC[Si](C)(C)C)=O | C10H22N2O2Si
reactant | 4-bromo-6-methyl-pyridine-2-carbaldehyde | 14.5 mmol, 2.9 g | BrC1=CC(=NC(=C1)C)C=O | C7H6BrNO
reactant | vinylsulfonylbenzene | 14.5 mmol, 2.44 g | C(=C)S(=O)(=O)C1=CC=CC=C1 | C8H8O2S
reactant | DBU | 14.5 mmol, 2.17 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | potassium tert-butoxide | 1.7 M | CC(C)([O-])C.[K+]
reactant | THF | 44.2 mmol, 26 mL | C1CCOC1 | C4H8O
reactant | Acetic acid | 44.2 mmol, 2.49 mL | C(C)(=O)O | C2H4O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | silver acetate | 14.5 mmol, 0.74 mL, 2.42 g | C(C)(=O)[O-].[Ag+]
product | 2-(4-bromo-6-methyl-2-pyridyl)-7-(2-trimethylsilylethoxymethyl)-1,7-diazaspiro[4.4]non-1-en-6-one | 3.15 g | BrC1=CC(=NC(=C1)C)C1=NC2(CC1)C(N(CC2)COCC[Si](C)(C)C)=O | C19H28BrN3O2Si
